US07161013B2
Synthesis of 3-cyanoterthiophene:
10 mmol of 3-bromoterthiophene was refluxed in anhydrous dimethylformamide (10 ml) containing 15 mmol of copper cyanide for 4 hours. After the dark mixture was allowed to cool to room temperature it was mixed with iron chloride (10 g) in hydrochloric acid solution (20 ml, 2.0M) and maintained at 60˜70° C. for 30 minutes. The organic extract was washed with hydrochloric acid solution (20 ml, 6M), distilled water, saturated sodium bicarbonate solution and aqueous sodium chloride solution to obtain a dark yellowish solid. The obtained solid was recrystallized from an organic solvent. The product has a melting point of 83° C. and a molecular weight of 272.9736 g/mol as measured using a mass spectrometer. The structure of the product was identified through 13C NMR, 1H NMR, and IR spectrometer.

reactant | 3-bromoterthiophene | 10 mmol | BrC1=C(SC=C1)C=1SC=CC1C=1SC=CC1 | C12H7BrS3
reactant | copper cyanide | 15 mmol | [Cu](C#N)C#N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 20 ml | Cl | ClH
catalyst | iron chloride | 10 g | [Fe](Cl)Cl
product | 3-cyanoterthiophene | C(#N)C1=C(SC=C1)C=1SC=CC1C=1SC=CC1 | C13H7NS3
